US09108938B2
2,3-dichloro-N-(2-(2-methylpiperidin-1-yl)-2-(2-methylpyrimidin-5-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(2-methylpiperidin-1-yl)-2-(2-methylpyrimidin-5-yl)ethanamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-methylpiperidin-1-yl)-2-(2-methylpyrimidin-5-yl)ethanamine | CC1N(CCCC1)C(CN)C=1C=NC(=NC1)C | C13H22N4
product | 2,3-dichloro-N-(2-(2-methylpiperidin-1-yl)-2-(2-methylpyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C)N2C(CCCC2)C)C=CC=C1Cl | C20H24Cl2N4O
